US05236924
Grignard reagent was prepared from 12.15 g of magnesium (turnings) and 50.23 g of 1-bromo-4-methoxy-3-methylbenzene in 200 ml of anhydrous ether by conventional process. To this Grignard reagent was added 200 ml of anhydrous benzene and ether was distilled off under normal pressure. To this solution was added dropwise a mixed solution comprising 47.25 g of benzyl chloride and 50 ml of anhydrous benzene under refluxing with heating, followed by stirring for 3 hours. After being left for cooling, the reaction mixture was filtered and the filtrate was washed with dilute hydrochloric acid, dilute aqueous sodium hydroxide solution and water in this order. The filtrate was dried over anhydrous magnesium sulfate and then was concentrated under reduced pressure and thereafter, distilled under reduced pressure to obtain 30.8 g of 4-benzyl-2-methyl-1-methoxybenzene.

reactant | magnesium | 12.15 g | [Mg] | Mg
reactant | 1-bromo-4-methoxy-3-methylbenzene | 50.23 g | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | ether | 200 ml | CCOCC | C4H10O
product | 4-benzyl-2-methyl-1-methoxybenzene | 30.8 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)C | C15H16O
